US06083961
To a solution of 4-[(E)-2-(4-pyridyl)vinyl]benzaldehyde (50 mg) in pyridine (0.025 ml) and ethanol (0.075 ml) was added malonic acid (27.4 mg), and the mixture was refluxed for 7 hours. After cooling, ethyl acetate was added thereto, the resulting precipitates were collected by filtration to give 4-[(E)-2-(4-pyridyl)vinyl]cinnamic acid (28 mg).

reactant | 4-[(E)-2-(4-pyridyl)vinyl]benzaldehyde | 50 mg | N1=CC=C(C=C1)/C=C/C1=CC=C(C=O)C=C1 | C14H11NO
reactant | malonic acid | 27.4 mg | C(CC(=O)O)(=O)O | C3H4O4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 0.025 ml | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 0.075 ml | C(C)O | C2H6O
product | 4-[(E)-2-(4-pyridyl)vinyl]cinnamic acid | 28 mg | N1=CC=C(C=C1)/C=C/C1=CC=C(C=CC(=O)O)C=C1 | C16H13NO2
